simulator lang=spectre

//----------------------------------//
//       CM123                      //
//--------------------------------- //
subckt CM123_S PLUS MINUS SUB
parameters c csub

C0 (PLUS MINUS) capacitor c=(c*(((1+mcm_CM123_c)-1)+1)*(1+5E-6*abs(v(PLUS)-v(MINUS)))*(1-1.4E-5*(temp-25)+5.2E-7*(temp-25)*(temp-25)))*CM123_c
C1 (PLUS SUB) capacitor c=csub/2
C2 (MINUS SUB) capacitor c=csub/2

ends CM123_S


